US04150139
11-Methyl-3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine was treated with potassium hydroxide and the reaction mixture was treated as described. By this procedure was obtained 2,11-dihydro-11-methyl-3H-s-triazolo[3,4-b][3]benzazepin-3-one as crystals. Pale brown needles (as recrystallized from ethanol), m.p. 119°-120° C.

reactant | 11-Methyl-3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine | CC1C=2N(C=CC3=C1C=CC=C3)C(=NN2)SC | C13H13N3S
reactant | potassium hydroxide | [OH-].[K+]
product | 2,11-dihydro-11-methyl-3H-s-triazolo[3,4-b][3]benzazepin-3-one | CC1C=2N(C=CC3=C1C=CC=C3)C(NN2)=O | C12H11N3O
